* source I-FFD-01
.EXTERNAL INPUT INV-IN
.EXTERNAL INPUT OR-OUT
.EXTERNAL INPUT NAND-OUT
.EXTERNAL INPUT INV-OUT
.EXTERNAL INPUT OR-IN1
.EXTERNAL INPUT OR-IN2
.EXTERNAL INPUT NAND-IN1
.EXTERNAL INPUT NAND-IN2
M_M17         N28576 OR-IN1 0 0 MbreakN           
M_M10         N22695 N22781 0 0 MbreakN           
M_M18         N28802 OR-IN1 VDD VDD MbreakP           
M_M5         INV-OUT INV-IN 0 0 MbreakN           
M_M27         N32837 N34118 0 0 MbreakN           
V_VDD         VDD 0 5
M_M19         N28576 OR-IN2 N28802 VDD MbreakP           
M_M13         N24721 N27834 0 0 MbreakN           
M_M6         INV-OUT INV-IN VDD VDD MbreakP           
M_M20         N28576 OR-IN2 0 0 MbreakN           
M_M14         N25608 N27834 VDD VDD MbreakP           
M_M1         NAND-OUT NAND-IN1 N14495 0 MbreakN           
M_M23         N32211 N33763 N32227 0 MbreakN           
M_M21         OR-OUT N28576 0 0 MbreakN           
M_M15         N24721 N27522 N25608 VDD MbreakP           
M_M24         N32211 N32301 VDD VDD MbreakP           
M_M22         OR-OUT N28576 VDD VDD MbreakP           
M_M2         NAND-OUT NAND-IN1 VDD VDD MbreakP           
M_M16         N24721 N27522 0 0 MbreakN           
M_M25         N32211 N33763 VDD VDD MbreakP           
M_M26         N32227 N32301 N32837 0 MbreakN           
M_M11         N23575 N22679 0 0 MbreakN           
M_M12         N23575 N22679 VDD VDD MbreakP           
M_M7         N22679 N22769 N22695 0 MbreakN           
M_M28         N32211 N34118 VDD VDD MbreakP           
M_M3         NAND-OUT NAND-IN2 VDD VDD MbreakP           
M_M8         N22679 N22769 VDD VDD MbreakP           
M_M9         N22679 N22781 VDD VDD MbreakP           
M_M4         N14495 NAND-IN2 0 0 MbreakN           
