* source I-FFD-01
V_VDD         VDD 0 5
M_M1         N41218 VDD N41234 0 MbreakN           
M_M2         N41218 VDD VDD VDD MbreakP           
M_M3         N41218 0 VDD VDD MbreakP           
M_M4         N41234 0 0 0 MbreakN           
