* gnetlist -g spice-sdb -o i-decoder-test.sch.cir i-decoder-test.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from model/i-decoder-001.sch.cir vvvvvvvv
*******************************
* Begin .SUBCKT model         *
* spice-sdb ver 4.28.2007     *
*******************************
.SUBCKT deco01 15 10 11 16 12 13 14 17 18 19 20 21 22 23 7 4 24 3 
*vvvvvvvv  Included SPICE model from model/2i_nand.sch.cir vvvvvvvv
*******************************
* Begin .SUBCKT model         *
* spice-sdb ver 4.28.2007     *
*******************************
.SUBCKT 2nand1 1 6 2 4 5 
*vvvvvvvv  Included SPICE model from ../model/nmos4.model vvvvvvvv
.model nmos4 NMOS(LEVEL=3 PHI=0.600000 TOX=2.1200E-08 XJ=0.200000U   
+  TPG=1 VTO=0.7860 DELTA=6.9670E-01 LD=1.6470E-07 KP=9.6379E-05
+  UO=591.7 THETA=8.1220E-02 RSH=8.5450E+01 GAMMA=0.5863
+  NSUB=2.7470E+16 NFS=1.98E+12 VMAX=1.7330E+05 ETA=4.3680E-02
+  KAPPA=1.3960E-01 CGDO=4.0241E-10 CGSO=4.0241E-10
+  CGBO=3.6144E-10 CJ=3.8541E-04 MJ=1.1854 CJSW=1.3940E-10
+  MJSW=0.125195 PB=0.800000)
*^^^^^^^^  End of included SPICE model from ../model/nmos4.model ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ../model/pmos4.model vvvvvvvv
.model pmos4 PMOS(LEVEL=3 PHI=0.600000 TOX=2.1200E-08 XJ=0.200000U 
+  TPG=-1 VTO=-0.9056 DELTA=1.5200E+00 LD=2.2000E-08 KP=2.9352E-05
+  UO=180.2 THETA=1.2480E-01 RSH=1.0470E+02 GAMMA=0.4863
+  NSUB=1.8900E+16 NFS=3.46E+12 VMAX=3.7320E+05 ETA=1.6410E-01
+  KAPPA=9.6940E+00 CGDO=5.3752E-11 CGSO=5.3752E-11
+  CGBO=3.3650E-10 CJ=4.8447E-04 MJ=0.5027 CJSW=1.6457E-10
+  MJSW=0.217168 PB=0.850000)
*^^^^^^^^  End of included SPICE model from ../model/pmos4.model ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
M4 1 5 6 6 pmos4  l=.8u w=10u
M3 1 4 6 6 pmos4  l=.8u w=10u
M2 3 5 2 2 nmos4  l=.8u w=3u
M1 1 4 3 2 nmos4  l=.8u w=3u
.ends 2nand1
*******************************
*^^^^^^^^  End of included SPICE model from model/2i_nand.sch.cir ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from model/4i_nand.sch.cir vvvvvvvv
*******************************
* Begin .SUBCKT model         *
* spice-sdb ver 4.28.2007     *
*******************************
.SUBCKT 4nand1 1 7 2 4 6 8 9 
*vvvvvvvv  Included SPICE model from model/nmos4.model vvvvvvvv
.model nmos4 NMOS(LEVEL=3 PHI=0.600000 TOX=2.1200E-08 XJ=0.200000U   
+  TPG=1 VTO=0.7860 DELTA=6.9670E-01 LD=1.6470E-07 KP=9.6379E-05
+  UO=591.7 THETA=8.1220E-02 RSH=8.5450E+01 GAMMA=0.5863
+  NSUB=2.7470E+16 NFS=1.98E+12 VMAX=1.7330E+05 ETA=4.3680E-02
+  KAPPA=1.3960E-01 CGDO=4.0241E-10 CGSO=4.0241E-10
+  CGBO=3.6144E-10 CJ=3.8541E-04 MJ=1.1854 CJSW=1.3940E-10
+  MJSW=0.125195 PB=0.800000)
*^^^^^^^^  End of included SPICE model from model/nmos4.model ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from model/pmos4.model vvvvvvvv
.model pmos4 PMOS(LEVEL=3 PHI=0.600000 TOX=2.1200E-08 XJ=0.200000U 
+  TPG=-1 VTO=-0.9056 DELTA=1.5200E+00 LD=2.2000E-08 KP=2.9352E-05
+  UO=180.2 THETA=1.2480E-01 RSH=1.0470E+02 GAMMA=0.4863
+  NSUB=1.8900E+16 NFS=3.46E+12 VMAX=3.7320E+05 ETA=1.6410E-01
+  KAPPA=9.6940E+00 CGDO=5.3752E-11 CGSO=5.3752E-11
+  CGBO=3.3650E-10 CJ=4.8447E-04 MJ=0.5027 CJSW=1.6457E-10
+  MJSW=0.217168 PB=0.850000)
*^^^^^^^^  End of included SPICE model from model/pmos4.model ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
M8 10 9 2 2 nmos4  l=0.8u w=3u
M7 5 8 10 2 nmos4  l=0.8u w=3u
M6 1 9 7 7 pmos4  l=0.8u w=10u
M5 1 8 7 7 pmos4  l=0.8u w=10u
M4 1 6 7 7 pmos4  l=0.8u w=10u
M3 1 4 7 7 pmos4  l=0.8u w=10u
M2 3 6 5 2 nmos4  l=0.8u w=3u
M1 1 4 3 2 nmos4  l=0.8u w=3u
.ends 4nand1
*******************************
*^^^^^^^^  End of included SPICE model from model/4i_nand.sch.cir ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from model/5i_nand.sch.cir vvvvvvvv
*******************************
* Begin .SUBCKT model         *
* spice-sdb ver 4.28.2007     *
*******************************
.SUBCKT 5nand1 1 7 2 4 6 8 9 12 
*vvvvvvvv  Included SPICE model from model/nmos4.model vvvvvvvv
.model nmos4 NMOS(LEVEL=3 PHI=0.600000 TOX=2.1200E-08 XJ=0.200000U   
+  TPG=1 VTO=0.7860 DELTA=6.9670E-01 LD=1.6470E-07 KP=9.6379E-05
+  UO=591.7 THETA=8.1220E-02 RSH=8.5450E+01 GAMMA=0.5863
+  NSUB=2.7470E+16 NFS=1.98E+12 VMAX=1.7330E+05 ETA=4.3680E-02
+  KAPPA=1.3960E-01 CGDO=4.0241E-10 CGSO=4.0241E-10
+  CGBO=3.6144E-10 CJ=3.8541E-04 MJ=1.1854 CJSW=1.3940E-10
+  MJSW=0.125195 PB=0.800000)
*^^^^^^^^  End of included SPICE model from model/nmos4.model ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from model/pmos4.model vvvvvvvv
.model pmos4 PMOS(LEVEL=3 PHI=0.600000 TOX=2.1200E-08 XJ=0.200000U 
+  TPG=-1 VTO=-0.9056 DELTA=1.5200E+00 LD=2.2000E-08 KP=2.9352E-05
+  UO=180.2 THETA=1.2480E-01 RSH=1.0470E+02 GAMMA=0.4863
+  NSUB=1.8900E+16 NFS=3.46E+12 VMAX=3.7320E+05 ETA=1.6410E-01
+  KAPPA=9.6940E+00 CGDO=5.3752E-11 CGSO=5.3752E-11
+  CGBO=3.3650E-10 CJ=4.8447E-04 MJ=0.5027 CJSW=1.6457E-10
+  MJSW=0.217168 PB=0.850000)
*^^^^^^^^  End of included SPICE model from model/pmos4.model ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
M9 11 12 2 2 nmos4  l=0.8u w=3u
M8 10 9 11 2 nmos4  l=0.8u w=3u
M7 5 8 10 2 nmos4  l=0.8u w=3u
M6 1 9 7 7 pmos4  l=0.8u w=10u
M5 1 8 7 7 pmos4  l=0.8u w=10u
M4 1 6 7 7 pmos4  l=0.8u w=10u
M3 1 4 7 7 pmos4  l=0.8u w=10u
M2 3 6 5 2 nmos4  l=0.8u w=3u
M1 1 4 3 2 nmos4  l=0.8u w=3u
M10 1 12 7 7 pmos4  l=0.8u w=10u
.ends 5nand1
*******************************
*^^^^^^^^  End of included SPICE model from model/5i_nand.sch.cir ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from model/7i_nand.sch.cir vvvvvvvv
*******************************
* Begin .SUBCKT model         *
* spice-sdb ver 4.28.2007     *
*******************************
.SUBCKT 7nand1 8 7 2 15 4 6 9 10 14 16 
*vvvvvvvv  Included SPICE model from model/pmos4.model vvvvvvvv
.model pmos4 PMOS(LEVEL=3 PHI=0.600000 TOX=2.1200E-08 XJ=0.200000U 
+  TPG=-1 VTO=-0.9056 DELTA=1.5200E+00 LD=2.2000E-08 KP=2.9352E-05
+  UO=180.2 THETA=1.2480E-01 RSH=1.0470E+02 GAMMA=0.4863
+  NSUB=1.8900E+16 NFS=3.46E+12 VMAX=3.7320E+05 ETA=1.6410E-01
+  KAPPA=9.6940E+00 CGDO=5.3752E-11 CGSO=5.3752E-11
+  CGBO=3.3650E-10 CJ=4.8447E-04 MJ=0.5027 CJSW=1.6457E-10
+  MJSW=0.217168 PB=0.850000)
*^^^^^^^^  End of included SPICE model from model/pmos4.model ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from model/nmos4.model vvvvvvvv
.model nmos4 NMOS(LEVEL=3 PHI=0.600000 TOX=2.1200E-08 XJ=0.200000U   
+  TPG=1 VTO=0.7860 DELTA=6.9670E-01 LD=1.6470E-07 KP=9.6379E-05
+  UO=591.7 THETA=8.1220E-02 RSH=8.5450E+01 GAMMA=0.5863
+  NSUB=2.7470E+16 NFS=1.98E+12 VMAX=1.7330E+05 ETA=4.3680E-02
+  KAPPA=1.3960E-01 CGDO=4.0241E-10 CGSO=4.0241E-10
+  CGBO=3.6144E-10 CJ=3.8541E-04 MJ=1.1854 CJSW=1.3940E-10
+  MJSW=0.125195 PB=0.800000)
*^^^^^^^^  End of included SPICE model from model/nmos4.model ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
M13 8 16 7 7 pmos4  l=0.8u w=10u
M12 13 16 2 2 nmos4  l=0.8u w=3u
M11 8 15 1 2 nmos4  l=0.8u w=3u
M14 8 15 7 7 pmos4  l=0.8u w=10u
M9 12 14 13 2 nmos4  l=0.8u w=3u
M8 11 10 12 2 nmos4  l=0.8u w=3u
M7 5 9 11 2 nmos4  l=0.8u w=3u
M6 8 10 7 7 pmos4  l=0.8u w=10u
M5 8 9 7 7 pmos4  l=0.8u w=10u
M4 8 6 7 7 pmos4  l=0.8u w=10u
M3 8 4 7 7 pmos4  l=0.8u w=10u
M2 3 6 5 2 nmos4  l=0.8u w=3u
M1 1 4 3 2 nmos4  l=0.8u w=3u
M10 8 14 7 7 pmos4  l=0.8u w=10u
.ends 7nand1
*******************************
*^^^^^^^^  End of included SPICE model from model/7i_nand.sch.cir ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
X1.1 5 3 0 17 18 19 20 21 22 14 7nand1
X2.1 6 3 0 17 18 19 20 12 13 14 7nand1
X5.1 1 3 0 10 11 12 13 14 5nand1
X8.1 7 3 0 5 6 8 9 4nand1
X4.1 9 3 0 15 10 11 16 12 13 14 7nand1
R2 16 24 0  
X6.1 2 3 0 20 13 2nand1
R1 0 23 100Meg  
X7.1 4 3 0 1 2 2nand1
X3.1 8 3 0 17 18 11 16 12 13 14 7nand1
.ends deco01
*******************************
*^^^^^^^^  End of included SPICE model from model/i-decoder-001.sch.cir ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
V8 nq1 0 pulse 5 0 0 1u 1u 5u 340u
V7 q7 0 pulse 0 5 0 1u 1u 320u 340u
V2 q2 0 pulse 0 5 0 1u 1u 10u 340u
.INCLUDE simul-comp.cmd
V4 q4 0 pulse 0 5 0 1u 1u 40u 340u
V3 q3 0 pulse 0 5 0 1u 1u 20u 340u
C2 0 ssb 47pF  
C1 0 lsb 47pF  
C3 0 msb 47pF  
V15 Vcc 0 DC 5V
X1.1 q1 q2 q3 q4 q5 q6 q7 nq1 nq2 nq3 nq4 nq5 nq6 nq7 lsb ssb msb Vcc deco01
R3 msb Vcc 100k  
R2 ssb Vcc 100k  
R1 lsb Vcc 100k  
V10 nq3 0 pulse 5 0 0 1u 1u 20u 340u
V11 nq4 0 pulse 5 0 0 1u 1u 40u 340u
V14 nq7 0 pulse 5 0 0 1u 1u 320u 340u
V1 q1 0 pulse 0 5 0 1u 1u 5u 340u
V9 nq2 0 pulse 5 0 0 1u 1u 10u 340u
V13 nq6 0 pulse 5 0 0 1u 1u 160u 340u
V12 nq5 0 pulse 5 0 0 1u 1u 80u 340u
V6 q6 0 pulse 0 5 0 1u 1u 160u 340u
V5 q5 0 pulse 0 5 0 1u 1u 80u 340u
.end
